US06982348B2
To a solution of (2RS,3RS)-2-((4-fluorophenyl)methyl)-3-hydroxy-3-(4-(trifluoromethyl)phenyl)propionic acid (21.0 g, 61.35 mmol) in tetrahydrofuran (500 ml) were added diphenylphosphoryl azide (14.5 ml, 67.5 mmol) and triethylamine (12.9 ml, 92 mmol), and the mixture was heated under reflux for 3 hrs. The reaction solution was diluted with water (500 ml), and the mixture was extracted with ethyl acetate (500 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate). Recrystallization from ethyl acetate-hexane gave (4RS,5SR)-4-((4-fluorophenyl)methyl)-5-(4-(trifluoromethyl)phenyl)-1,3-oxazolidin-2-one (19.24 g, 92%).

reactant | (2RS,3RS)-2-((4-fluorophenyl)methyl)-3-hydroxy-3-(4-(trifluoromethyl)phenyl)propionic acid | 61.35 mmol, 21.0 g | FC1=CC=C(C=C1)CC(C(=O)O)C(C1=CC=C(C=C1)C(F)(F)F)O | C17H14F4O3
reactant | diphenylphosphoryl azide | 67.5 mmol, 14.5 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 92 mmol, 12.9 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | (4RS,5SR)-4-((4-fluorophenyl)methyl)-5-(4-(trifluoromethyl)phenyl)-1,3-oxazolidin-2-one | 19.24 g, 92% | FC1=CC=C(C=C1)CC1NC(OC1C1=CC=C(C=C1)C(F)(F)F)=O | C17H13F4NO2
